US07763562B2
Bis(2-methyl-3-phenyl-1H-inden-7-yl) sulfide
Under an argon atmosphere, to a solution of 3.20 g (9.93 mmol) of 2-methyl-4-[(2-methyl-1-oxo-2,3-dihydro-1H-inden-4-yl)sulfanyl]-1-indanone in 20 ml of ether, a solution of PhMgBr in ether [obtained from 0.73 g (30.0 mmol) of magnesium turnings, 4.77 g (30.4 mmol) of bromobenzene, and 30 ml of ether] was added dropwise with vigorous stirring at 0° C. This mixture was stirred overnight and then added to 50 ml of water. Then, to this mixture 12 M HCl (to pH 1) was added. The organic layer was separated; and the aqueous layer was extracted with 3×20 ml of dichloromethane. The combined extract was evaporated, and a mixture of the residue and 0.5 g para-toluenesulfonic acid in 150 ml benzene was refluxed for 1 hour. The resulting mixture was washed with 50 ml of saturated aqueous NaHCO3. The organic layer was separated, dried over Na2SO4, and evaporated to dryness. The product was isolated by flash chromatography on Silica Gel 60 (40-63 μm, d 35 mm, l 300 mm, eluant: hexanes-CH2Cl2=1:2, vol.). Yield, 2.20 g (50%) of a yellowish solid.

reactant | 2-methyl-4-[(2-methyl-1-oxo-2,3-dihydro-1H-inden-4-yl)sulfanyl]-1-indanone | 9.93 mmol, 3.20 g | CC1C(C2=CC=CC(=C2C1)SC1=C2CC(C(C2=CC=C1)=O)C)=O | C20H18O2S
reactant | PhMgBr | C1(=CC=CC=C1)[Mg]Br
reactant | magnesium | 30.0 mmol | [Mg] | Mg
reactant | bromobenzene | 30.4 mmol | BrC1=CC=CC=C1 | C6H5Br
reactant | HCl | pH 1 | Cl | ClH
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | ether | 30.0 mmol, 30 ml, 0.73 g | CCOCC | C4H10O
solvent | water | 50 ml | O | H2O
product | Bis(2-methyl-3-phenyl-1H-inden-7-yl) sulfide | CC=1CC2=C(C=CC=C2C1C1=CC=CC=C1)SC=1C=CC=C2C(=C(CC12)C)C1=CC=CC=C1 | C32H26S
